US04980082
Preparation of (S)-ethyl 4-(2-tetrahydropyranyloxy)butoxybenzoate:
5 g (0.030 mol) of ethyl 4-hydroxybenzoate was added to 1.6 g (0.033 mol) of 50% sodium hydride and 50 ml of dimethylformamide under stirring at room temperature. The mixture was stirred for 30 min. 9.9 g (0.030 mol) of (S)-2-tetrahydropyranyloxybutoxy p-toluenesulfonate was added thereto and the mixture was stirred at 80° C. for 10 h. Then, the mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with a 10% aqueous sodium hydroxide solution and then with a saturated aqueous common salt solution, dried and concentrated to obtain 8.8 g of the crude product.

reactant | ethyl 4-hydroxybenzoate | 0.030 mol, 5 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | sodium hydride | 0.033 mol, 1.6 g | [H-].[Na+]
reactant | (S)-2-tetrahydropyranyloxybutoxy p-toluenesulfonate | 0.030 mol, 9.9 g | C1(=CC=C(C=C1)S(=O)(=O)OOC[C@H](CC)OC1OCCCC1)C | C16H24O6S
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (S)-ethyl 4-(2-tetrahydropyranyloxy)butoxybenzoate | 8.8 g | O1[C@H](CCCC1)OCCCCOC1=C(C(=O)OCC)C=CC=C1 | C18H26O5
